US03954844
to a solution of 30 parts of (5Z,13E,15S)-15-acetyloxy-10ξ,11ξ-epoxy-9-oxoprosta-5,13-dien-1-oic acid in 1200 parts of methanol at 5° is added a solution of 12 parts of 100% hydrazine hydrate in 96 parts of methanol followed by a solution of 1 part of acetic acid in 5 parts of methanol. The resultant mixture is stirred at 5° for 30 minutes, then acidified with aqueous 2% citric acid. The mixture thus obtained is extracted with dichloromethane. The extract is washed with water, dried over anhydrous sodium sulfate, and stripped of solvent by vacuum distillation. The residual red oil is taken up in benzene; and the benzene solution is chromatographed on silica gel, using benzene and mixtures thereof with increasing amounts of ethyl acetate as developing solvents. From an eluate comprising 20% ethyl acetate in benzene, on evaporation of solvent, (5Z,13E,15S)-15-acetyloxy-11ξ-hydroxyprosta-5,9,13-trien-1-oic acid is obtained as a colorless oil which gradually darkens upon standing.

reactant | (5Z,13E,15S)-15-acetyloxy-10ξ,11ξ-epoxy-9-oxoprosta-5,13-dien-1-oic acid | C(C)(=O)O[C@H](/C=C/[C@H]1C2C(C([C@@H]1C\C=C/CCCC(=O)O)=O)O2)CCCCC | C22H32O6
reactant | hydrazine hydrate | O.NN
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (5Z,13E,15S)-15-acetyloxy-11ξ-hydroxyprosta-5,9,13-trien-1-oic acid | C(C)(=O)O[C@H](/C=C/[C@H]1C(C=C[C@@H]1C\C=C/CCCC(=O)O)O)CCCCC | C22H34O5
